US04489094
4-[[3-(p-Chlorophenyl)propyl]methylamino]benzoic acid
A 1.80 g. portion of 4-[[3-(p-chlorophenyl)propyl]methylamino]benzoic acid, ethyl ester is dissolved in 15 ml. of 95% ethanol. A 1 g. portion of potassium hydroxide is added, and the mixture is refluxed overnight. The solution is poured into 30 ml. of water, the pH is adjusted to 6 using 37% hydrochloric acid, and the solid is collected and dried. This solid is dissolved in benzene, filtered, and evaporated, giving 750 mg. of the desired product.

reactant | 4-[[3-(p-chlorophenyl)propyl]methylamino]benzoic acid, ethyl ester | ClC1=CC=C(C=C1)CCCN(C1=CC=C(C(=O)OCC)C=C1)C | C19H22ClNO2
reactant | ethanol | C(C)O | C2H6O
reactant | potassium hydroxide | [OH-].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | 4-[[3-(p-Chlorophenyl)propyl]methylamino]benzoic acid | ClC1=CC=C(C=C1)CCCN(C1=CC=C(C(=O)O)C=C1)C | C17H18ClNO2
